US04232148
4,6-Di-O-acetyl-2,3-dideoxy-3-trifluoroacetamido-D-arabino-hex-1-enopyranos
2,4,6-Tri-O-acetyl-1-bromo-1,3-dideoxy-3-trifluoroacetamido-α-D-glucopyranose [Chem. Ber. 104, 1 (1971)] is added to the cooled mixture at 5°-15° and continued stirring for 2.5 hours at 5°. When the reaction is complete as measured by TLC (ethyl acetate-SSB, 1:2) the mixture is filtered over a pad of filter-aid and washed with methylene chloride.

reactant | 2,4,6-Tri-O-acetyl-1-bromo-1,3-dideoxy-3-trifluoroacetamido-α-D-glucopyranose | C(C)(=O)O[C@H]1[C@H](O[C@@H]([C@H]([C@@H]1NC(C(F)(F)F)=O)OC(C)=O)COC(C)=O)Br | C14H17BrF3NO8
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4,6-Di-O-acetyl-2,3-dideoxy-3-trifluoroacetamido-D-arabino-hex-1-enopyranos | C(C)(=O)O[C@H]1[C@@H](C=C(O)O[C@@H]1COC(C)=O)NC(C(F)(F)F)=O | C12H14F3NO7
